### PR TITLE
feat: add BitVec.neg_neg

### PR DESCRIPTION
**Pull request by tobiasgrosser**
... as well as neg_neq_iff_neq_neg.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -1248,6 +1248,24 @@ theorem neg_eq_not_add (x : BitVec w) : -x = ~~~x + 1 := by
...
+theorem neg_neg {x : BitVec w} : - - x = x := by
+  by_cases h : x = 0
+  · subst h
+    simp
+  · simp only [toNat_eq, toNat_neg]
+    rw [toNat_eq] at h
+    simp only [ofNat_eq_ofNat, toNat_ofNat, Nat.zero_mod] at h
+    rw [Nat.mod_eq_of_lt (a := 2 ^ w - x.toNat) (by omega)]
+    rw [Nat.mod_eq_of_lt (by omega)]
+    omega
```
Comment (AtticusKuhn) [inline src/Init/Data/BitVec/Lemmas.lean:1261]: Perhaps this theorem could be made simpler?


```lean

@[simp]
theorem neg_neg2 {x : BitVec w} : - - x = x := by
  have p :  (- x) + (- -x)  = x - x := by
    simp [BitVec.sub_self, ← BitVec.sub_toAdd]
  rw [BitVec.eq_sub_iff_add_eq , BitVec.add_comm, ← BitVec.add_assoc , ← BitVec.sub_toAdd x x , BitVec.sub_self  x, BitVec.zero_add] at p
  assumption
```

**Review by AtticusKuhn — APPROVED** [review]
Looks good to me.

**Comment by tobiasgrosser** [comment]
Merged with https://github.com/leanprover/lean4/pull/4951 into lean.
